US08389771B2
Condensation of 3-bromophenethylamine with ethyl trifluoroacetate gave N-(3-bromophenethyl)-2,2,2-trifluoroacetamide as a colorless oil. Yield (3.30 g, quant.). 1H NMR (400 MHz, CDCl3) δ 7.40 (ddd, J=7.8, 1.8, 1.0 Hz, 1H), 7.53 (t, J=1.8 Hz, 1H), 7.21 (t, J=7.6 Hz, 1H), 7.10-7.13 (m, 1H), 6.32 (br s, 1H), 3.61 (q, J=6.7 Hz, 2H), 2.87 (t, J=7.2 Hz, 2H).

reactant | 3-bromophenethylamine | BrC=1C=C(CCN)C=CC1 | C8H10BrN
reactant | ethyl trifluoroacetate | FC(C(=O)OCC)(F)F | C4H5F3O2
product | N-(3-bromophenethyl)-2,2,2-trifluoroacetamide | BrC=1C=C(CCNC(C(F)(F)F)=O)C=CC1 | C10H9BrF3NO
